US06730668B2
Preparation of 2-(4-fluorophenyl)-6-morpholin-4-yl-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (20):
To a solution of 2-(4-fluorophenyl)-1-[4-morpholin-4-yl-2-(2-phenoxy-pyrimidine-4-carbonyl)pyrazolidine-1-yl]ethanone, 19, (0.2 g, 0.4 mmol) in DMF (10 mL) at 0° C. is added NaH (0.024 g, 0.6 mmol) and the resulting solution is stirred 2 hours. The solvent is removed in vacuo the residue dissolved in methylene chloride and extracted with water, dried, and re-concentrated to afford 37 mg (20% yield) of the desired product as a yellow solid.

reactant | 2-(4-fluorophenyl)-1-[4-morpholin-4-yl-2-(2-phenoxy-pyrimidine-4-carbonyl)pyrazolidine-1-yl]ethanone | FC1=CC=C(C=C1)CC(=O)N1N(CC(C1)N1CCOCC1)C(=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C26H26FN5O4
reactant | NaH | 0.6 mmol, 0.024 g | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-6-morpholin-4-yl-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 37 mg, 20% yield | FC1=CC=C(C=C1)C1=C(N2N(CC(C2)N2CCOCC2)C1=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C26H24FN5O3
